US06982348B2
To a solution of 3-(1,1,2,2-tetrafluoroethoxy)toluene (7.51 g, 35.6 mmol) in carbon tetrachloride (100 ml) were added N-bromosuccinimide (7.60 g, 42.7 mmol) and 2,2′-azobis(isobutyronitrile) (290 mg, 1.78 mmol), and the mixture was heated under reflux for 4 hrs. After cooling, the reaction solution was filtered, the filtrate was concentrated to give 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene. To a solution of ethyl 3-(6-fluoropyridin-2-yl)-3-oxopropionate (7.51 g, 35.6 mmol) in 1,2-dimethoxyethane (70 ml) was added sodium hydride (60% in oil, 1.42 g, 35.6 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene prepared earlier in 1,2-dimethoxyethane (10 ml), and the reaction solution was stirred at room temperature for 1 hr. The reaction solution was poured into water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1) to give ethyl 3-(6-fluoropyridin-2-yl)-3-oxo-2-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)propionate (7.74 g, 52%) as a colorless oil.

reactant | ethyl 3-(6-fluoropyridin-2-yl)-3-oxopropionate | 35.6 mmol, 7.51 g | FC1=CC=CC(=N1)C(CC(=O)OCC)=O | C10H10FNO3
reactant | sodium hydride | 35.6 mmol, 1.42 g | [H-].[Na+]
reactant | 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene | FC(C(F)F)(OC=1C=C(C=CC1)CBr)F | C9H7BrF4O
reactant | water | 100 ml | O | H2O
solvent | 1,2-dimethoxyethane | 70 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | ethyl 3-(6-fluoropyridin-2-yl)-3-oxo-2-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)propionate | 7.74 g, 52% | FC1=CC=CC(=N1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O | C19H16F5NO4
